US05593988
A mixture of 3-(1-decenyl)nitrobenzene (43.9 g), acetic acid (200 ml) and palladium black (2.0 g) was hydrogenated at room temperature and at atmospheric pressure for 12 hours. The catalyst was changed and the reaction was continued for 12 hours under the same conditions. The catalyst was filtered off and the residue was concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography (hexane/chloroform=10:1→1:2) to give 7.36 g of 3-decylaniline.

reactant | 3-(1-decenyl)nitrobenzene | 43.9 g | C(=CCCCCCCCC)C=1C=C(C=CC1)[N+](=O)[O-] | C16H23NO2
catalyst | palladium black | 2.0 g | [Pd] | Pd
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-decylaniline | 7.36 g | C(CCCCCCCCC)C=1C=C(N)C=CC1 | C16H27N
